US09085583B2
Lithium hydroxide anhydrate (882 mg, 21 mmol) in water (3 mL) was added to (R)-methyl 2-chloro-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate (700 mg, 2.1 mmol) in tetrahydrofuran (5 mL) and methanol (10 mL) and the resultant mixture was stirred at room temperature for 12 hours. The mixture was evaporated, added with water (5 mL), acidified with aqueous hydrochloric acid (1M) to pH=2. The precipitate solid was filtered and dried to obtain (R)-2-chloro-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid as a white solid (500 mg, 75%). LRMS (M+H+) m/z: calcd 315.08. found 315.

reactant | Lithium hydroxide | [OH-].[Li+]
reactant | (R)-methyl 2-chloro-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate | 2.1 mmol, 700 mg | ClC=1N=CC2=C(N1)N(C(=C2C(=O)OC)C)[C@H](C)C2=CC=CC=C2 | C17H16ClN3O2
solvent | water | 3 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | (R)-2-chloro-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | 500 mg, 75% | ClC=1N=CC2=C(N1)N(C(=C2C(=O)O)C)[C@H](C)C2=CC=CC=C2 | C16H14ClN3O2
